US08293746B2
Step 25.4: 5-Methoxy-3-trifluoromethyl-aniline
Hydrogenation of a solution of 3-methoxy-5-nitrobenzotrifluoride (6.19 g, 28 mmol) in MeOH (140 ml) in the presence of Pd—C (0.62 g, 10%), removal of the catalyst by filtration and concentration in vacuo of the resulting filtrate gives the title compound: API-MS: 190 [M-H]−; TLC: Rf=0.7 (EtOAc).

reactant | 3-methoxy-5-nitrobenzotrifluoride | 28 mmol, 6.19 g | COC=1C=C(C=C(C1)[N+](=O)[O-])C(F)(F)F | C8H6F3NO3
solvent | MeOH | 140 ml | CO | CH4O
catalyst | Pd—C | 0.62 g | [Pd] | Pd
product | 5-Methoxy-3-trifluoromethyl-aniline | COC=1C=C(C=C(N)C1)C(F)(F)F | C8H8F3NO
